US05086055
3-Methyl-5-(4-Phenyl-1-Piperazinylmethyl)-2-Oxazolidinone
This compound was prepared according to the procedure of Example 2. A mixture of 3.2 g (0.02 mol) of 1-phenylpiperazine, 3.0 g (0.02 mol) of 5-(chloromethyl)-3-methyl-2-oxazolidinone, 8.0 g (0.075 mol) of anhydrous sodium carbonate, and 0.4 g of potassium iodide in 100 mL of 1-butanol gave a brown oil as residue. The oil was converted to the dioxalate and the solid was recrystallized from acetonitrile-dimethylformamide but did not give a correct combustion analysis. The salt was partitioned between methylene chloride and a 4% sodium hydroxide solution. The organic layer was dried (Na2SO4) and concentrated to yield 0.9 g (16%) of white solid, mp 110°-112° C. (2-propanol).

reactant | 1-phenylpiperazine | 0.02 mol, 3.2 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 5-(chloromethyl)-3-methyl-2-oxazolidinone | 0.02 mol, 3.0 g | ClCC1CN(C(O1)=O)C | C5H8ClNO2
reactant | sodium carbonate | 0.075 mol, 8.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
solvent | 1-butanol | 100 mL | C(CCC)O | C4H10O
product | 3-Methyl-5-(4-Phenyl-1-Piperazinylmethyl)-2-Oxazolidinone | 0.9 g, 16% | CN1C(OC(C1)CN1CCN(CC1)C1=CC=CC=C1)=O | C15H21N3O2
